US05885986
A yellow suspension of 4.86 g (0.0171 mol) of (S)-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[l,5-a][1,4]benzodiazepine-1-thiocarboxamide in 120 ml of dioxan was treated with 2.38 g (0.0188 mol) of 1,3-dichloro-2-propanone. The suspension was boiled at reflux for 48 hrs. The solution obtained was cooled and completely freed from the solvents. The product was chromatographed over silica gel with dichloromethane/ethyl acetate 1:1 as the eluent and recrystallized from hot ethyl acetate. There were obtained 2.54 g (42%) of (S)-1-(4-chloromethyl-thiazol-2-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]-imidazo[1,5-a][1,4]benzodiazepin-9-one as white crystals; m.p. 248°-249° and [α]D20 =-186.1° (DMF, c=1%).

reactant | (S)-9-oxo-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[l,5-a][1,4]benzodiazepine-1-thiocarboxamide | 0.0171 mol, 4.86 g | O=C1N2[C@H](C=3N(C4=C1C=CC=C4)C=NC3C(N)=S)CC2 | C14H12N4OS
reactant | 1,3-dichloro-2-propanone | 0.0188 mol, 2.38 g | ClCC(CCl)=O | C3H4Cl2O
solvent | dioxan | 120 ml | O1CCOCC1 | C4H8O2
product | (S)-1-(4-chloromethyl-thiazol-2-yl)-12,12a-dihydro-9H,11H-azeto[2,1-c]-imidazo[1,5-a][1,4]benzodiazepin-9-one | 2.54 g, 42% | ClCC=1N=C(SC1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC=C3)=O)CC1 | C17H13ClN4OS
